US05278148
3.06 g of a 55% sodium hydride dispersion in oil were washed with hexane and covered with 85 ml of dimethylformamide. 17.0 g (71.6 mmol) of t-butyl [4-hydroxyphenethyl]carbamate [see F. Rocchiccioli et al., Tetrahedron, 34, 2917 (1978)] were then added while cooling with ice and the reaction mixture was stirred at room temperature for 15 minutes. After cooling to 0° a solution of 12.04 g (71.6 mmol) of 2-ethoxyethyl methanesulfonate in 85 ml of dimethylformamide was added dropwise within 10 minutes and the reaction mixture was subsequently stirred at room temperature for 24 hours. Thereafter, the reaction mixture was poured into ice-water and extracted with methylene chloride. The methylene chloride extracts were dried over magnesium sulfate and evaporated under reduced pressure. The residue obtained was chromatographed on 240 g of silica gel with a mixture of hexane and ethyl acetate as the eluting agent and subsequently recrystallized from ether/hexane, whereby there were obtained 19.1 g of t-butyl [ 4-(2-ethoxyethoxy)phenethyl]carbamate, melting point 56°-57°.

reactant | t-butyl [4-hydroxyphenethyl]carbamate | 71.6 mmol, 17.0 g | OC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H19NO3
reactant | 2-ethoxyethyl methanesulfonate | 71.6 mmol, 12.04 g | CS(=O)(=O)OCCOCC | C5H12O4S
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | t-butyl [ 4-(2-ethoxyethoxy)phenethyl]carbamate | 19.1 g | C(C)OCCOC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C17H27NO4
